US07687508B2
To a solution of 2-(trimethylsilyl)ethyl (1R,2S,5R)-5-amino-2-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)cyclohexylcarbamate (1.03 g, 2.099 mmol) in methanol (10 ml) was added 3,5-di-tert-butyl-1,2-benzoquinone (0.555 g, 2.52 mmol). This mixture was stirred for 2 hr before THF (6 mL) and water (2 mL) were added along with oxalic acid to pH 4. This mixture was concentrated. The resulting residue was dissolved in ethyl acetate and washed with brine. The organic layer was dried (MgSO4), filtered, and concentrated. This was purified via flash chromatography to give 2-(trimethylsilyl)ethyl (1R,2S)-2-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-5-oxocyclohexylcarbamate (0.550 g, 1.123 mmol, 53.5% yield). LC/MS found [M+H]+=491.3.

reactant | 2-(trimethylsilyl)ethyl (1R,2S,5R)-5-amino-2-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)cyclohexylcarbamate | 2.099 mmol, 1.03 g | N[C@@H]1CC[C@@H]([C@@H](C1)NC(OCC[Si](C)(C)C)=O)N1C([C@H](CC1)NC(=O)OCC1=CC=CC=C1)=O | C24H38N4O5Si
reactant | 3,5-di-tert-butyl-1,2-benzoquinone | 2.52 mmol, 0.555 g | C(C)(C)(C)C=1C(C(C=C(C1)C(C)(C)C)=O)=O | C14H20O2
reactant | THF | 6 mL | C1CCOC1 | C4H8O
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 2-(trimethylsilyl)ethyl (1R,2S)-2-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-5-oxocyclohexylcarbamate | 1.123 mmol, 0.550 g, 53.5% yield | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](CC(CC1)=O)NC(OCC[Si](C)(C)C)=O)=O | C24H35N3O6Si
